US06759554B2
2-(3-Nitrophenylamino)-1-phenylethanol
A 15 mL screw top test tube fitted with a PTFE septum cap was purged with argon before addition of CuI (5.0 mg, 0.026 mmol, 2.6 mol %), K3PO4 (425 mg, 2.0 mmol), rac-2-amino-1-phenylethanol (140 mg, 1.02 mmol) and 1-iodo-3-nitrobenzene (302 mg, 1.25 mmol). Ethylene glycol (56 μL, 1.02 mmol) and isopropyl alcohol (1.0 mL) were added, via syringe, under argon. The septum cap was replaced with a solid, Teflon-lined cap and the reaction was stirred magnetically at 75° C. for 48 h. The reaction mixture was allowed to cool before dilution with 10 mL brine and extraction with methylene chloride (3×10 mL). The organic extracts were washed with 0.1 M NaOH (2×10 mL), washed with brine (1×15 mL), dried over MgSO4 and concentrated. The crude material was purified by silica gel chromatography using methylene chloride/ethyl acetate (96:4). The product was obtained as an orange, viscous oil in 66% yield (172.8 mg).

reactant | K3PO4 | 2.0 mmol, 425 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | rac-2-amino-1-phenylethanol | 1.02 mmol, 140 mg | NCC(O)C1=CC=CC=C1 | C8H11NO
reactant | 1-iodo-3-nitrobenzene | 1.25 mmol, 302 mg | IC1=CC(=CC=C1)[N+](=O)[O-] | C6H4INO2
reactant | Ethylene glycol | 1.02 mmol, 56 μL | C(CO)O | C2H6O2
solvent | brine | 10 mL | [Cl-].[Na+].O
catalyst | CuI | 0.026 mmol, 5.0 mg | [Cu]I
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | isopropyl alcohol | 1.0 mL | C(C)(C)O | C3H8O
product | 2-(3-Nitrophenylamino)-1-phenylethanol | 66% yield | [N+](=O)([O-])C=1C=C(C=CC1)NCC(O)C1=CC=CC=C1 | C14H14N2O3
